US07816369B2
A stirred solution of 2-(2-chloro-5-nitro-phenyl)-N-hydroxy-1H-benzoimidazole-5-carboxamidine (5.29 g; 16.0 mmol) in triethyl orthoformate (50 ml) was heated to 80° C. Concentrated hydrochloric acid (3 drops) was added and heating continued for a further two hours. After cooling to room temperature, heptane (50 ml) was added which caused a precipitate to form. The solid was filtered off and washed with more heptane to afford 2-(2-chloro-5-nitro-phenyl)-5-[1,2,4]oxadiazol-3-yl-1H-benzoimidazole (3.30 g, 62%)

reactant | 2-(2-chloro-5-nitro-phenyl)-N-hydroxy-1H-benzoimidazole-5-carboxamidine | 16.0 mmol, 5.29 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC2=C(N1)C=CC(=C2)C(=N)NO | C14H10ClN5O3
reactant | heptane | 50 ml | CCCCCCC | C7H16
solvent | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | 2-(2-chloro-5-nitro-phenyl)-5-[1,2,4]oxadiazol-3-yl-1H-benzoimidazole | 3.30 g, 62% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC2=C(N1)C=CC(=C2)C2=NOC=N2 | C15H8ClN5O3
